US05550147
A mixture of 1-[4-(methylthio)phenyl]-4,4,4-trifluorobutane-1,3-dione (1.8 g) and 4-cyanophenylhydrazine hydrochloride (1.2 g) in acetic acid (30 ml) and N,N-dimethylformamide (1 ml) was stirred at 110° C. for 3 hours. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate, and evaporated to give a brown powder of 1-(4-cyanophenyl)-5-[4-(methylthio)phenyl]-3-(trifluoromethyl)pyrazole (2.5 g).

reactant | 1-[4-(methylthio)phenyl]-4,4,4-trifluorobutane-1,3-dione | 1.8 g | CSC1=CC=C(C=C1)C(CC(C(F)(F)F)=O)=O | C11H9F3O2S
reactant | 4-cyanophenylhydrazine hydrochloride | 1.2 g | Cl.C(#N)C1=CC=C(C=C1)NN
reactant | water | O | H2O
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 1-(4-cyanophenyl)-5-[4-(methylthio)phenyl]-3-(trifluoromethyl)pyrazole | 2.5 g | C(#N)C1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)SC)C(F)(F)F | C18H12F3N3S
